US07217714B1
1-Benzyl N-methyl-4-piperidinecarboxamide
N-Benzyl 4-piperidinecarboxylic acid (5.00 g, 22.8 mmol), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (5.25 g, 27.4 mmol) and 1-hydroxybenzotriazole hydrate (3.84 g, 25.1 mmol) were added to a solution of methylamine (11.4 ml of a 2.0M solution in tetrahydrofuran, 22.8 mmol) in dichloromethane (100 ml). The mixture was stirred for 1 hour at room temperature, then partitioned between dichloromethane and water. The organic layer was separated and washed with brine, dried (MgSO4), filtered and evaporated under reduced pressure to furnish a pale yellow solid, 3.50 g.

reactant | N-Benzyl 4-piperidinecarboxylic acid | 22.8 mmol, 5.00 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C13H17NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 27.4 mmol, 5.25 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 25.1 mmol, 3.84 g | O.ON1N=NC2=C1C=CC=C2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Benzyl N-methyl-4-piperidinecarboxamide | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)NC | C14H20N2O
